US05137035
The reaction of 7.12 g (34.8 mmoles) of aluminum isopropoxide in 100 ml of toluene with 1.5 g (5.8 mmoles) of 6-(carbethoxymethyl)-3-n-butyl-2-cyclohexen-1-one was conducted in a similar manner to the synthesis of 3a,4,5,7a-tetrahydro-2(3H)-benzofuranone described in Example I. The crude material was purified by crystallization from hexane to yield 1.04 g (84%) of cis 6-phenyl-3a,4,5,7a-tetrahydro-2(3H)-benzofuranone, mp 90°-92° C. NMR and IR confirm the structure of the compound.

reactant | aluminum isopropoxide | 34.8 mmoles, 7.12 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | 6-(carbethoxymethyl)-3-n-butyl-2-cyclohexen-1-one | 5.8 mmoles, 1.5 g | C(=O)(OCC)CC1CCC(=CC1=O)CCCC | C14H22O3
reactant | 3a,4,5,7a-tetrahydro-2(3H)-benzofuranone | O1C(CC2C1C=CCC2)=O | C8H10O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | cis 6-phenyl-3a,4,5,7a-tetrahydro-2(3H)-benzofuranone | 1.04 g, 84% | C1(=CC=CC=C1)C1=C[C@H]2[C@H](CC(O2)=O)CC1 | C14H14O2
